US07238716B2
To a mixture of t-butyl 4-(hydroxymethyl)phenyl[(5-methyl-2-phenyl-4-oxazolyl)methyl]carbamate (1.0 g), triethylamine (1.01 g) and ethyl acetate (50 mL) was added methanesulfonyl chloride (1.15 g) at 0° C. The reaction mixture was stirred at room temperature for 20 hrs., diluted with ethyl acetate and washed successively with a saturated aqueous sodium hydrogencarbonate and saturated brine. The mixture was dried over anhydrous magnesium sulfate and concentrated to give pale-yellow crystals. To a mixture of the obtained crystals, methyl 2-(2-hydroxyphenyl)acetate (0.55 g) and N,N-dimethylformamide (30 mL) was added sodium hydride (60%, oil, 0.14 g) at 0° C. The mixture was stirred at room temperature for 3 hrs. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water, 2N aqueous sodium hydroxide solution and saturated brine, and dried over anhydrous magnesium sulfate. After concentration of the organic layer, the residue was subjected to silica gel column chromatography to give crystals (0.82 g, 60%) of methyl 2-[2-[4-[(t-butoxycarbonyl)[(5-methyl-2-phenyl-4-oxazolyl)methyl]amino]benzyloxy]phenyl]acetate from a fraction eluted with ethyl acetate-hexane (1:3, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 85-86° C.

reactant | t-butyl 4-(hydroxymethyl)phenyl[(5-methyl-2-phenyl-4-oxazolyl)methyl]carbamate | 1.0 g | OCC1=CC=C(C=C1)N(C(OC(C)(C)C)=O)CC=1N=C(OC1C)C1=CC=CC=C1 | C23H26N2O4
reactant | methanesulfonyl chloride | 1.15 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 2-(2-hydroxyphenyl)acetate | 0.55 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | sodium hydride | 0.14 g | [H-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
product | methyl 2-[2-[4-[(t-butoxycarbonyl)[(5-methyl-2-phenyl-4-oxazolyl)methyl]amino]benzyloxy]phenyl]acetate | 0.82 g, 60% | C(C)(C)(C)OC(=O)N(C1=CC=C(COC2=C(C=CC=C2)CC(=O)OC)C=C1)CC=1N=C(OC1C)C1=CC=CC=C1 | C32H34N2O6
